US09120822B2
Preparation of 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [6-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-pyridin-3-yl]-amide
The titled compound is prepared as a light yellow lyophilizated powder following Scheme 5 and in analogy to Example 1 using [6-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-pyridin-3-yl]-carbamic acid tert-butyl ester and 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid acid as starting materials.

reactant | [6-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-pyridin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=NC(=CC1)C1COC=2C=NC3=CC=C(N=C3C2N1C)OC)=O | C22H25N5O4
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | O=C1CSC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3S
product | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid [6-(6-methoxy-4-methyl-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-pyridin-3-yl]-amide | COC=1N=C2C=3N(C(COC3C=NC2=CC1)C1=CC=C(C=N1)NC(=O)C=1C=CC2=C(NC(CS2)=O)C1)C | C26H22N6O4S
